US04112105
Following a procedure similar to that described in Example 14 but reacting 10 g. of 3-chloro-2,1-benzisothiazole with 21 g. of 3-(diethylamino)methyl-4-hydroxyaniline dihydrochloride in 30 ml. of diglyme and 20 ml. of water there was obtained 3-{[3-(diethylamino)methyl-4-hydroxyphenyl]amino}-2,1-benzisothiazole, m.p. 164°-165° C.

reactant | 3-chloro-2,1-benzisothiazole | ClC=1SN=C2C1C=CC=C2 | C7H4ClNS
reactant | 3-(diethylamino)methyl-4-hydroxyaniline dihydrochloride | Cl.Cl.C(C)N(CC)CC=1C=C(N)C=CC1O
reactant | diglyme | COCCOCCOC | C6H14O3
solvent | water | O | H2O
product | 3-{[3-(diethylamino)methyl-4-hydroxyphenyl]amino}-2,1-benzisothiazole | C(C)N(CC)CC=1C=C(C=CC1O)NC=1SN=C2C1C=CC=C2 | C18H21N3OS
